US09193707B2
4. Synthesis of 5,6-dimethoxy-1,2,3,4-tetrahydroisoquinoline hydrochloride
Into a 50-mL round-bottom flask, was placed a solution of tert-butyl 5,6-dimethoxy-1,2,3,4-tetrahydroisoquinoline-2-carboxylate (800 mg, 2.73 mmol, 1.00 equiv) in methanol (15 mL) and hydrogen chloride (4 mL). The resulting solution was stirred for 5 h at room temperature. The resulting mixture was concentrated under vacuum. The residue was diluted with 5 mL of water. The resulting mixture was extracted with 3×30 mL of ethyl acetate and the aqueous layer combined. The mixture was concentrated under vacuum. This resulted in 500 mg (80%) of 5,6-dimethoxy-1,2,3,4-tetrahydroisoquinoline hydrochloride as a white solid. MS (ESI) m/z 194 ([M+H]+).

reactant | tert-butyl 5,6-dimethoxy-1,2,3,4-tetrahydroisoquinoline-2-carboxylate | 2.73 mmol, 800 mg, 1.00 equiv | COC1=C2CCN(CC2=CC=C1OC)C(=O)OC(C)(C)C | C16H23NO4
reactant | hydrogen chloride | 4 mL | Cl | ClH
solvent | methanol | 15 mL | CO | CH4O
product | 5,6-dimethoxy-1,2,3,4-tetrahydroisoquinoline hydrochloride | Cl.COC1=C2CCNCC2=CC=C1OC | InChI=1S/C11H15NO2.ClH/c1-13-10-4-3-8-7-12-6-5-9(8)11(10)14-2;/h3-4,12H,5-7H2,1-2H3;1H
